US04594342
A mixture of 2.49 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 15 ml of acetic anhydride and 5 ml of pyridine is stirred at 100° C. for 2 hours. The mixture is evaporated under reduced pressure to remove acetic anhydride and pyridine. Toluene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent (This operation is repeated again). 3.08 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.49 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C28H30N2O5S
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.08 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C30H32N2O6S
